US06159901
Production of 4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (compound No. II-3)
4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid, N',N'-dibenzyl hydrazide (0.80 g, 0.00154 mol) was mixed with methanol (about 10 ml), and further with 10% palladium/carbon (0.2 g, 0.00154×0.12 mol) in a hydrogen atmosphere (about 0.5 kg/cm2). The resultant mixture was stirred at a temperature of about 50 to 60° C. for about 3 hours. The obtained reaction solution was filtered and concentrated, thereby obtaining an aimed product.

reactant | 4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid, N',N'-dibenzyl hydrazide | 0.00154 mol, 0.80 g | C(C1=CC=CC=C1)N(NC(C1=NC(=CC(=C1)N(C)C)OC1=CC(=CC=C1)C(F)(F)F)=O)CC1=CC=CC=C1 | C29H27F3N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 0.12 mol, 0.2 g | [Pd] | Pd
solvent | methanol | about 10 ml | CO | CH4O
product | 4-dimethylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | CN(C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN)C | C15H15F3N4O2
